US04345935
To a stirred solution of 70 g. of N-methylaminoacetic acid and 70 g. of sodium hydroxide in 500 ml. of water were added portion-wise over twenty minutes 100 g. of phenyl isocyanate. Following complete addition, the aqueous reaction mixture was stirred at 24° C. for two hours. The mixture was then filtered and the filtrate was acidified to pH 2 by the addition of corc. hydrochloric acid. The precipitate which formed was collected by filtration to provide N-methyl-N-carboxymethyl-N'-phenylurea.

reactant | N-methylaminoacetic acid | CNCC(=O)O | C3H7NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | water | O | H2O
product | N-methyl-N-carboxymethyl-N'-phenylurea | CN(C(=O)NC1=CC=CC=C1)CC(=O)O | C10H12N2O3
